US09029388B2
E) 4-(3-Methoxy-1H-pyrazolo[3,4-b]pyridin-1-yl)phenol
A suspension of 1-[4-(benzyloxy)phenyl]-3-methoxy-1H-pyrazolo[3,4-b]pyridine (1.1 g) and 10% palladium on carbon (containing water (50%), 0.10 g) in methanol (50 ml) was stirred for 3 hr under a hydrogen atmosphere at room temperature. The reaction mixture was filtered through celite, and the filtrate was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound (0.50 g).

reactant | 1-[4-(benzyloxy)phenyl]-3-methoxy-1H-pyrazolo[3,4-b]pyridine | 1.1 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N1N=C(C=2C1=NC=CC2)OC | C20H17N3O2
catalyst | palladium on carbon | 0.10 g | [Pd] | Pd
solvent | methanol | 50 ml | CO | CH4O
product | 4-(3-Methoxy-1H-pyrazolo[3,4-b]pyridin-1-yl)phenol | 0.50 g | COC1=NN(C2=NC=CC=C21)C2=CC=C(C=C2)O | C13H11N3O2
